US07153878B2
3-(4-Aminomethyl-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(4-Azidomethyl-2-methyl-phenyl)-propionic acid methyl ester (0.20 g, 0.86 mmol) and 5% Pd/C (32 mg) in EtOH (50 mL) is exposed to a hydrogen atmosphere (60 psi) at RT overnight. Upon filtering the mixture through Celite, the filtrate is concentrated to yield the title compound (0.14 g, 78%). The material is used without further purification.

reactant | 3-(4-Azidomethyl-2-methyl-phenyl)-propionic acid methyl ester | 0.86 mmol, 0.20 g | COC(CCC1=C(C=C(C=C1)CN=[N+]=[N-])C)=O | C12H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 32 mg | [Pd] | Pd
product | 3-(4-Aminomethyl-2-methyl-phenyl)-propionic acid methyl ester | 0.14 g, 78% | COC(CCC1=C(C=C(C=C1)CN)C)=O | C12H17NO2
